US07553840B2
A mixture of 2,2,2-trifluoro-1-[2-(5-methyl-thiophen-3-yl)-phenyl]-ethanol (100 mg, 0.37 mmol), 2-amino-4,6-dichloro-pyrimidine (54 mg, 0.33 mmol), cesium carbonate (481 mg, 1.48 mmol) and 1,4-dioxane (2 ml) was heated at 110° C. overnight. The reaction mixture was cooled to room temperature; 10 ml of ethyl acetate was added. The mixture was then filtered through Celite, the filtrate was concentrated to give 90 mg of 4-chloro-6-{2,2,2-trifluoro-1-[2-(5-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-2-ylamine, yield: 68%

reactant | 2,2,2-trifluoro-1-[2-(5-methyl-thiophen-3-yl)-phenyl]-ethanol | 0.37 mmol, 100 mg | FC(C(O)C1=C(C=CC=C1)C1=CSC(=C1)C)(F)F | C13H11F3OS
reactant | 2-amino-4,6-dichloro-pyrimidine | 0.33 mmol, 54 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | cesium carbonate | 1.48 mmol, 481 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-{2,2,2-trifluoro-1-[2-(5-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-2-ylamine | 90 mg, yield: 68% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CSC(=C1)C)N | C17H13ClF3N3OS
